US08026366B2
A scintillation vial was charged with 4-amino-2-ethylthiazolo[4,5-c]quinolin-7-ol and anhydrous N,N-dimethylformamide (DMF, 2 mL). The mixture was warmed until a solution was obtained. An additional amount of DMF (1 mL) was added. To this stirred orange solution was added cesium carbonate (3.0 eq.) and a solution of 2-(bromomethyl)benzothiazole dissolved in DMF (2 mL). Additional DMF (1 mL) was used to rinse the vial. The vial was capped and heated to 60° C. overnight. The reaction was monitored by HPLC. The reaction was quenched by adding the reaction mixture dropwise to water (60 mL) with stirring. A precipitate formed. The solid was collected by vacuum filtration. The solid was then dissolved in methanol and adsorbed onto silica gel (6 g) for purification by HPFC (0-15% CMA in chloroform, 1440 mL). Pure fractions were combined and concentrated; the resulting solid was recrystallized from acetonitrile to provide 7-[(1,3-benzothiazol-2-yl)methoxy]-2-ethylthiazolo[4,5-c]quinolin-4-amine as a white crystalline solid, mp. 211-212° C. MS (APCI) m/z 393 (M+H)+. Anal. calcd C20H16N4OS2.0.6H2O: C, 59.56; H, 4.30; N, 13.89. Found: C, 59.66; H, 4.08; N, 13.80.

reactant | 4-amino-2-ethylthiazolo[4,5-c]quinolin-7-ol | NC1=NC=2C=C(C=CC2C2=C1N=C(S2)CC)O | C12H11N3OS
reactant | cesium carbonate | 3.0 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(bromomethyl)benzothiazole | BrCC=1SC2=C(N1)C=CC=C2 | C8H6BrNS
solvent | DMF | 2 mL | CN(C=O)C | C3H7NO
solvent | DMF | 1 mL | CN(C=O)C | C3H7NO
solvent | DMF | 1 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 7-[(1,3-benzothiazol-2-yl)methoxy]-2-ethylthiazolo[4,5-c]quinolin-4-amine | S1C(=NC2=C1C=CC=C2)COC=2C=CC=1C3=C(C(=NC1C2)N)N=C(S3)CC | C20H16N4OS2
